### PR TITLE
Univalence for abmonoids, rigs, commrigs, rngs, ...

### PR DESCRIPTION
**Pull request by tpannila**
This PR contains univalence for
- abmonoids, `abmonoids_univalence`, line 484, Monoids_and_Groups.v
- rigs, `rig_univalence`, line 301, Rigs_and_Rings.v
- commrigs, `commrig_univalence`, line 550, Rigs_and_Rings.v
- rngs, `rng_univalence`, line 835, Rigs_and_Rings.v
- commrngs, `commrng_univalence`, line 1920, Rigs_and_Rings.v
- intdoms, `intdom_univalence`, line 385, Domains_and_Fields.v
- flds, `fld_univalence`, line 620, Domains_and_Fields.v

To show univalence for flds, I needed to change direct product in `isafield` to ∑ .
This change is needed to show that `isaprop(isafield F)`, line 539, Domains_and_Fields.v .

### CODE REVIEW

**Comment by DanGrayson** [comment]
Since `dirprod` is implemented in terms of `total2`, how does changing the definition help?

**Comment by DanGrayson** [comment]
I just did an experiment with your code: reverting the definition of `isafield` breaks none of your proofs.

```
--- a/UniMath/Algebra/Domains_and_Fields.v
+++ b/UniMath/Algebra/Domains_and_Fields.v
@@ -514,7 +514,7 @@ Defined.
 (** **** Main definitions *)
 
 Definition isafield (X : commrng) : UU :=
-  ∑ H : isnonzerorng X, (∏ x : X, coprod (multinvpair X x) (paths x 0)).
+  dirprod (isnonzerorng X) (∏ x : X, coprod (multinvpair X x) (paths x 0)).
 
 Lemma isapropisafield (X : commrng) : isaprop (isafield X).
 Proof.
```

**Comment by tpannila** [comment]
@DanGrayson, you are correct. My bad. I changed the definition back to dirprod.

**Comment by DanGrayson** [comment]
It might clarify things to define `fldiso` to be `rngiso`.

**Comment by DanGrayson** [comment]
A simplification:
```
diff --git a/UniMath/Algebra/Rigs_and_Rings.v b/UniMath/Algebra/Rigs_and_Rings.v
index 1c920df..7189632 100644
--- a/UniMath/Algebra/Rigs_and_Rings.v
+++ b/UniMath/Algebra/Rigs_and_Rings.v
@@ -190,18 +190,7 @@ Defined.
 
 Definition idrigiso (X : rig) : rigiso X X.
 Proof.
-  intros X.
-  use rigisopair.
-  - exact (idweq X).
-  - use mk_isrigfun.
-    + use mk_ismonoidfun.
-      * use mk_isbinopfun.
-        intros x x'. use idpath.
-      * use idpath.
-    + use mk_ismonoidfun.
-      * use mk_isbinopfun.
-        intros x x'. use idpath.
-      * use idpath.
+  intros X. exists (idweq X). repeat split; reflexivity.
 Defined.
 
 
```

**Comment by DanGrayson** [comment]
The subproof
```
    + use invproofirrelevance. intros m1 m2.
      use total2_paths_f.
      * use (pathscomp0 (! (rigrunax2 X (pr1 m1)))).
        use (pathscomp0 _ (riglunax2 X (pr1 m2))).
        use (pathscomp0 _ (maponpaths (fun y : X => op2 y (pr1 m2)) (dirprod_pr2 (pr2 m1)))).
        use (pathscomp0 (maponpaths (fun y : X => op2 (pr1 m1) y) (! dirprod_pr1 (pr2 m2)))).
        use (pathscomp0 (! @rigassoc2 X (pr1 m1) (pr1 m2) x)).
        use (pathscomp0 (@rigcomm2 X (op2 (pr1 m1) (pr1 m2)) x)).
        exact (! @rigassoc2 X x (pr1 m1) (pr1 m2)).
      * use proofirrelevance. use isapropdirprod.
        -- use setproperty.
        -- use setproperty.
```
can be replaced by applying
```
isapropinvpair: ∏ (X : monoid) (x : X), isaprop (invpair X x)
```

**Comment by DanGrayson** [comment]
A minor simplification:
```
diff --git a/UniMath/Algebra/Domains_and_Fields.v b/UniMath/Algebra/Domains_and_Fields.v
index 59450bc..5448198 100644
--- a/UniMath/Algebra/Domains_and_Fields.v
+++ b/UniMath/Algebra/Domains_and_Fields.v
@@ -536,12 +536,10 @@ Proof.
         -- use setproperty.
         -- use setproperty.
     + use setproperty.
-    + intros H' e. use H.
-      use (pathscomp0
-             _ (@multx0_is_l X (@op1 X) (@op2 X) (dirprod_pr1 (rngop1axs X)) (rngop2axs X)
-                             (rngdistraxs X) (pr1 H'))).
-      use (pathscomp0 _ (maponpaths (fun y : X  => op2 (pr1 H') y) e)).
-      exact (! dirprod_pr1 (pr2 H')).
+    + intros H' e. use H. induction (!e), H' as [Q [R _]]; clear e.
+      use (!R @ _). use multx0_is_l.
+      * exact (rngop2axs X).
+      * exact (rngdistraxs X).
 Defined.
 Opaque isapropisafield.
 
```

**Comment by DanGrayson** [comment]
There seems to be no need to prove there is a weak equivalence between types that are judgmentally equal, as here:
```

Definition intdom_univalence_weq3 (X Y : intdom) : (rngiso (pr1 X) (pr1 Y)) ≃ (rngiso X Y) :=
  idweq (rngiso X Y).

```

**Comment by DanGrayson** [comment]
A simplification:
```
--- a/UniMath/Algebra/Domains_and_Fields.v
+++ b/UniMath/Algebra/Domains_and_Fields.v
@@ -374,10 +374,7 @@ Proof.
   use isweqhomot.
   - exact (weqcomp (intdom_univalence_weq1 X Y)
                    (weqcomp (intdom_univalence_weq2 X Y) (intdom_univalence_weq3 X Y))).
-  - intros e. induction e.
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use idpath.
+  - intros e. induction e. reflexivity.
   - use weqproperty.
 Defined.
 Opaque intdom_univalence_isweq.
```

**Comment by DanGrayson** [comment]
There is no need to have an equivalence between things that are judgmentally equal:
```
Definition fld_univalence_weq3 (X Y : fld) : (rngiso (pr1 X) (pr1 Y)) ≃ (rngiso X Y) :=
  idweq (rngiso X Y).
```

**Comment by DanGrayson** [comment]
A simplification:
```
@@ -609,10 +604,7 @@ Proof.
   use isweqhomot.
   - exact (weqcomp (fld_univalence_weq1 X Y)
                    (weqcomp (fld_univalence_weq2 X Y) (fld_univalence_weq3 X Y))).
-  - intros e. induction e.
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use idpath.
+  - intros e. induction e. reflexivity.
   - use weqproperty.
 Defined.
 Opaque fld_univalence_isweq.
```

**Comment by DanGrayson** [comment]
Another redundant weq:
```
Definition abmonoid_univalence_weq4 (X Y : abmonoid) :
  (monoidiso (pr1 (mk_abmonoid' X)) (pr1 (mk_abmonoid' Y))) ≃ (monoidiso X Y) :=
  idweq (monoidiso X Y).
```

**Comment by DanGrayson** [comment]
A simplification:
```
--- a/UniMath/Algebra/Monoids_and_Groups.v
+++ b/UniMath/Algebra/Monoids_and_Groups.v
@@ -472,11 +472,7 @@ Proof.
                    (weqcomp (abmonoid_univalence_weq2 X Y)
                             (weqcomp (abmonoid_univalence_weq3 X Y)
                                      (abmonoid_univalence_weq4 X Y)))).
-  - intros e. induction e.
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use idpath.
+  - intros e. induction e. reflexivity.
   - use weqproperty.
 Defined.
 Opaque abmonoid_univalence_isweq.
```

**Comment by DanGrayson** [comment]
If you like defining accessor functions, here's an opportunity:
```
        -- exact (pr1 (pr1 (pr2 i))).
        -- exact (pr1 (pr2 (pr2 i))).
      * exact (pr2 (pr1 (pr2 i))).
      * exact (pr2 (pr2 (pr2 i))).
```

**Comment by DanGrayson** [comment]
Another redundant weq:
```
Definition commrig_univalence_weq4 (X Y : commrig) :
  (rigiso (pr1 (mk_commrig' X)) (pr1 (mk_commrig' Y))) ≃ (rigiso X Y) := idweq (rigiso X Y).
```

**Comment by DanGrayson** [comment]
A simplification:
```
@@ -539,10 +528,7 @@ Proof.
                             (weqcomp (commrig_univalence_weq3 X Y)
                                      (commrig_univalence_weq4 X Y)))).
   - intros e. induction e.
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use idpath.
+    reflexivity.
   - use weqproperty.
 Defined.
 Opaque commrig_univalence_isweq.
```

**Comment by DanGrayson** [comment]
And this trivial one:
```
Definition rng_univalence_weq4 (X Y : rng) :
  (rigiso (pr1 (mk_rng' X)) (pr1 (mk_rng' Y))) ≃ (rngiso X Y) := idweq (rngiso X Y).
```

**Comment by DanGrayson** [comment]
And this one:
```
Definition commrng_univalence_weq4 (X Y : commrng) :
  (rngiso (pr1 (mk_commrng' X)) (pr1 (mk_commrng' Y))) ≃ (rngiso X Y) := idweq (rngiso X Y).
```

That's my last remark.  If those are attended to, it's all okay.

Actually, I wonder if those "simplifications" involving "reflexivity" slow things down.  I saw an example here, which confuses me:
```
@@ -824,10 +810,7 @@ Proof.
                             (weqcomp (rng_univalence_weq3 X Y)
                                      (rng_univalence_weq4 X Y)))).
   - intros e. induction e.
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use (pathscomp0 weqcomp_to_funcomp_app).
-    use idpath.
+    reflexivity.
   - use weqproperty.
 Defined.
 Opaque rng_univalence_isweq.
```

**Comment by tpannila** [comment]
Dan, I added some accessor functions and simplified some proofs by following your suggestions.

**Comment by vladimirias** [comment]
In all these cases, if the problem is that Coq does not see these definitional equalities in proofs, you can use “change” or you can introduce this as an equality inside the proof and do a rewrite with it (it will amount to a rewrite with a refl that Coq will hopefully eliminate from the final proof term).

**Comment by benediktahrens** [comment]
There still seem to be a few unnecessary compositions with the identity path, if I am not mistaken.
Otherwise lgtm.

File: UniMath/Algebra/Domains_and_Fields.v [hunk 1]
```diff
@@ -476,6 +557,53 @@ Defined.
...
+Defined.
+
+Lemma fld_univalence_isweq (X Y : fld) : isweq (fld_univalence_map X Y).
+Proof.
+  intros X Y.
+  use isweqhomot.
+  - exact (weqcomp (fld_univalence_weq1 X Y) (fld_univalence_weq2 X Y)).
+  - intros e. induction e.
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use idpath.
```
Comment (benediktahrens) [inline UniMath/Algebra/Domains_and_Fields.v]: Superfluous composition with idpath.

File: UniMath/Algebra/Monoids_and_Groups.v [hunk 2]
```diff
@@ -414,6 +423,71 @@ Definition abmonoidrer (X : abmonoid) (a b c d : X) :
...
+Lemma abmonoid_univalence_isweq (X Y : abmonoid) : isweq (abmonoid_univalence_map X Y).
+Proof.
+  intros X Y.
+  use isweqhomot.
+  - exact (weqcomp (abmonoid_univalence_weq1' X Y)
+                   (weqcomp (abmonoid_univalence_weq2 X Y) (abmonoid_univalence_weq3 X Y))).
+  - intros e. induction e.
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use idpath.
```
Comment (benediktahrens) [inline UniMath/Algebra/Monoids_and_Groups.v]: Superfluous composition with idpath.

File: UniMath/Algebra/Rigs_and_Rings.v [hunk 3]
```diff
@@ -182,6 +196,121 @@ Proof.
...
+Lemma rig_univalence_isweq (X Y : rig) : isweq (rig_univlalence_map X Y).
+Proof.
+  intros X Y.
+  use isweqhomot.
+  - exact (weqcomp (rig_univalence_weq1 X Y)
+                   (weqcomp (rig_univalence_weq2 X Y) (rig_univalence_weq3 X Y))).
+  - intros e. induction e.
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use idpath.
```
Comment (benediktahrens) [inline UniMath/Algebra/Rigs_and_Rings.v]: Superfluous composition with idpath.

File: UniMath/Algebra/Rigs_and_Rings.v [hunk 4]
```diff
@@ -357,6 +486,73 @@ Definition commrigmultabmonoid (X : commrig) : abmonoid :=
...
+Lemma commrig_univalence_isweq (X Y : commrig) : isweq (commrig_univalence_map X Y).
+Proof.
+  intros X Y.
+  use isweqhomot.
+  - exact (weqcomp (commrig_univalence_weq1' X Y)
+                   (weqcomp (commrig_univalence_weq2 X Y) (commrig_univalence_weq3 X Y))).
+  - intros e. induction e.
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use idpath.
```
Comment (benediktahrens) [inline UniMath/Algebra/Rigs_and_Rings.v]: Superfluous composition with idpath.

File: UniMath/Algebra/Rigs_and_Rings.v [hunk 5]
```diff
@@ -524,6 +720,117 @@ Identity Coercion id_rngiso : rngiso >-> rigiso.
...
+Lemma rng_univalence_isweq (X Y : rng) : isweq (rng_univalence_map X Y).
+Proof.
+  intros X Y.
+  use isweqhomot.
+  - exact (weqcomp (rng_univalence_weq1' X Y)
+                   (weqcomp (rng_univalence_weq2 X Y) (rng_univalence_weq3 X Y))).
+  - intros e. induction e.
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use idpath.
```
Comment (benediktahrens) [inline UniMath/Algebra/Rigs_and_Rings.v]: Superfluous composition with idpath.

File: UniMath/Algebra/Rigs_and_Rings.v [hunk 6]
```diff
@@ -1534,6 +1841,73 @@ Definition commrngtocommrig (X : commrng) : commrig := commrigpair _ (pr2 X).
...
+Lemma commrng_univalence_isweq (X Y : commrng) : isweq (commrng_univalence_map X Y).
+Proof.
+  intros X Y.
+  use isweqhomot.
+  - exact (weqcomp (commrng_univalence_weq1' X Y)
+                   (weqcomp (commrng_univalence_weq2 X Y) (commrng_univalence_weq3 X Y))).
+  - intros e. induction e.
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use (pathscomp0 weqcomp_to_funcomp_app).
+    use idpath.
```
Comment (benediktahrens) [inline UniMath/Algebra/Rigs_and_Rings.v]: Superfluous composition with idpath.

**Comment by vladimirias** [comment]
@tpannila you now have two LGTMs, so as soon as you fix the conflicts you can merge.

**Comment by DanGrayson** [comment]
I've merged it (with no conflicts), so after the test we can merge.
